US07091229B2
In an ice bath, 14 ml triethylamine was added to a suspension of 3.2 g (20 mmol) O-benzylhydroxylamine hydrochloride in 150 ml dichloromethane. Stirring was continued until the solution became clear. Then, 4.5 g (20 mmol) 8-bromo octanoic acid was added, followed by 5.6 g (22 mmol) bis-(2-oxo-3-oxazolidinyl)-phosphorylchloride. Stirring was continued at ambient temperature for 18 h. The solution was extracted twice with 150 ml each of 1M aqueous hydrochloric acid and twice with 150 ml each of 1M aqueous sodium bicarbonate. The organic solvent was removed i. vac. to give 5.1 g (78%) of 8-bromo-octanoic acid benzyloxyamide as a colorless oil. MS: 330 (M+H+)

reactant | triethylamine | 14 ml | C(C)N(CC)CC | C6H15N
reactant | O-benzylhydroxylamine hydrochloride | 20 mmol, 3.2 g | Cl.C(C1=CC=CC=C1)ON
reactant | 8-bromo octanoic acid | 20 mmol, 4.5 g | BrCCCCCCCC(=O)O | C8H15BrO2
reactant | bis-(2-oxo-3-oxazolidinyl)-phosphorylchloride | 22 mmol, 5.6 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
product | 8-bromo-octanoic acid benzyloxyamide | 5.1 g, 78% | C(C1=CC=CC=C1)ONC(CCCCCCCBr)=O | C15H22BrNO2
